US04188325
By reacting 5-carboethoxyisatin with phosphorous pentachloride, there is obtained 5-carboethoxyisatin chloride which, on reaction with 3(2H)-thianaphthenone, yields 5'-carboethoxy-2'-indole-2-thianaphthenone indigo, which also is useful as a dyestuff.

reactant | 5-carboethoxyisatin | C(=O)(OCC)C=1C=C2C(C(NC2=CC1)=O)=O | C11H9NO4
reactant | phosphorous pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 5-carboethoxyisatin chloride | [Cl-].C(=O)(OCC)C=1C=C2C(C(NC2=CC1)=O)=O | InChI=1S/C11H9NO4.ClH/c1-2-16-11(15)6-3-4-8-7(5-6)9(13)10(14)12-8;/h3-5H,2H2,1H3,(H,12,13,14);1H/p-1
